US05663200
46d) 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-[(3-methoxyphenyl)methyl]hexanoic acid
In analogy with Example 44e), 1.3 g of 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-[(3-methoxyphenyl)methyl]hexanoic acid in 13 ml of DMF are silylated with 1.987 g of tert-butyldimethylchlorosilane and 1.646 g of imidazole. The silyl ester group in the crude product is detached at RT in 2 h in a mixture consisting of 38.94 ml of methanol, 13.34 ml of THF, 13.34 ml of water and 2.35 g of potassium carbonate. Chromatography on silica gel (eluents: E, D and C) yields the pure title compound. TLC Rf (D)=0.06. FAB-MS (M+H)+ =558.

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-[(3-methoxyphenyl)methyl]hexanoic acid | 1.3 g | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC(=CC=C1)OC)O)CC1=CC=CC=C1 | C25H33NO6
reactant | tert-butyldimethylchlorosilane | 1.987 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 1.646 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 2.35 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 13 ml | CN(C)C=O | C3H7NO
solvent | water | 13.34 ml | O | H2O
solvent | THF | 13.34 ml | C1CCOC1 | C4H8O
solvent | methanol | 38.94 ml | CO | CH4O
product | 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-[(3-methoxyphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC(=CC=C1)OC)O[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1 | C31H47NO6Si
